US05302720
A mixture of 2-aminobiphenyl hydrochloride (6.17 g) and 4-cyanomorpholine (5.05 g) in m-cresol (25 ml) was heated at 90°-95° C. for 15 hours to yield N-(2-biphenylyl)-4-morpholine carboxamidine (m.p. 153°-154° C.) which was recrystallised from ethylacetate. N-(2-Biphenylyl)morpholine-4-carboxamidine (3.5 g) was dissolved in methanol (15 ml) and treated with fumaric acid (1.45 g) to give N-(2-biphenylyl)morpholine-4-carboxamidine fumarate (m.p. 222°-223° C.) which was recrystallised from a 1:1 mixture of methanol and ether.

reactant | 2-aminobiphenyl hydrochloride | 6.17 g | Cl.NC1=C(C=CC=C1)C1=CC=CC=C1
reactant | 4-cyanomorpholine | 5.05 g | C(#N)N1CCOCC1 | C5H8N2O
solvent | m-cresol | 25 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(2-biphenylyl)-4-morpholine carboxamidine | C1(=C(C=CC=C1)NC(=N)N1CCOCC1)C1=CC=CC=C1 | C17H19N3O
